US07109354B2
a) (Imino-{4-[3-(4-methyl-pyrimidin-5-yl)-benzenesulfonyl]-5-methylsulfanyl-thiophen-2-yl}-methyl)-carbamic acid tert-butyl ester
To a flask with a reflux condenser under argon was added 5-Bromo-4-methyl-pyrimidine (9 mg, 0.044 mmol), prepared according to the procedure of Yamanaka, Sakamoto, Nishimura, and Sagi, Chem. Pharm. Bull. 35(8), 3119–3126 (1987). {[4-(3-dihydroxyboranyl-benzenesulfonyl)-5-methylsulfanyl-thiophen-2-yl]-imino-methyl}-carbamic acid tert-butyl ester (20 mg, 0.044 mmol, Example 140: step a), Na2CO3 (2M, 0.220 mL, 0.44 mmol), Pd(PPh3)4 (8 mg, 0.007 mmol), ethanol (0.220 mL) and toluene (0.440 mL). PdCl2(PPh3)2 (42 mg, 0.06 mmol), dioxane (4 mL), and triethylamine (420 μL, 3 mmol) and the mixture was stirred for 2 h 15 min at 90° C. After cooling to rt, EtOAc (2 mL) and NaHCO3 (saturated, 2 mL) were added and the layers were separated. The organic layer concentrated in vacuo followed by purification of the crude material by preparative TLC (5% methanol in dichloromethane) to yield the title compound (19 mg, 87%) as a white solid. 1H-NMR (CDCl3): δ 9.12 (s, 1H), 8.54 (s, 1H), 8.10–7.29 (m, 7H), 2.59 (s, 3H), 2.50 (s, 3H), 1.51 (s, 9H). ESI-MS (m/z): Calcd. for C22H24N4O4S3: 504.1 (M−BOC)+H; found: 405.1.

reactant | 5-Bromo-4-methyl-pyrimidine | 0.044 mmol, 9 mg | BrC=1C(=NC=NC1)C | C5H5BrN2
reactant | {[4-(3-dihydroxyboranyl-benzenesulfonyl)-5-methylsulfanyl-thiophen-2-yl]-imino-methyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(=N)C=1SC(=C(C1)S(=O)(=O)C1=CC(=CC=C1)B(O)O)SC)=O | C17H21BN2O6S3
reactant | Na2CO3 | 0.44 mmol, 2M, 0.220 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | triethylamine | 3 mmol, 420 μL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | 2 mL | C(=O)(O)[O-].[Na+]
catalyst | Pd(PPh3)4 | 0.007 mmol, 8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | PdCl2(PPh3)2 | 0.06 mmol, 42 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | toluene | 0.440 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 0.220 mL | C(C)O | C2H6O
product | (Imino-{4-[3-(4-methyl-pyrimidin-5-yl)-benzenesulfonyl]-5-methylsulfanyl-thiophen-2-yl}-methyl)-carbamic acid tert-butyl ester | 19 mg, 87% | C(C)(C)(C)OC(NC(C=1SC(=C(C1)S(=O)(=O)C1=CC(=CC=C1)C=1C(=NC=NC1)C)SC)=N)=O | C22H24N4O4S3
